Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cough, SOB 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with no significant PMH presented to the ED c/o 2 days of
right sided chest pain and SOB. Pain is described as an aching
pain that limited patient's ability to take a deep breath. This
lead to SOB. Also endorses productive cough. Symptoms began with
fever 2 days ago. Positive nasal congestion. Multiple sick
contacts at work. Denies substernal chest pain or radiation. Not
worse with deep breaths. No previous hx heart disease. Had 1
episode of nausea and diarrhea in the ED. Had poor PO intake x 3
days. No abd pain. No melena/brbpr. No history of asthma or lung
disease. No dysuria or hematuria. States only developed flank
pain after rectal exam, and right flank pain now resolved. 

In the ED, initial vitals were:  98.7  81  125/78  18  97% RA. 
Labs were notable for WBC 21.6, Cr 2.85, Na 134, trop < 0.01> UA
with trace blood, neg Leuks, neg nitrates, 32 WBCs. 
CXR and CT abd/pelvis notable for RML PNA. 
Patient received ceftriaxone, azithromycin x1 and 1L LR. 

On the floor, patient is well-appearing. Chest pain is resolved
and patient confirms the above history.  

Review of systems:  
(+) Per HPI  
(-) Denies chills, night sweats, recent weight loss or gain.
denies headache, sinus tenderness, rhinorrhea. Denies
palpitations. Denies vomiting, constipation or abdominal pain. 
No
recent change in bowel or bladder habits. No dysuria. Denies
arthralgias or myalgias.  
 

 
Past Medical History:
Alcohol Abuse   
Hyperlipidemia   
Hypertension      
Knee Pain   
Fractured Ankle  ___ 
 
Social History:
___
Family History:
Mother CAD s/p CABG, SLE
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vital Signs:  99.5  135/72  92  18  95 Ra 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Decreased breath sounds at right lung posteriorly. No
rhonchi or crackles. 
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.

DISCHARGE PHYSICAL EXAM:
Vitals: 98.6 121 / 73 78 18 94 Ra 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: CTAB no wheezes, rales
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.
 
Pertinent Results:
ADMISSION LABS:

___ 01:20AM URINE  WBCCLUMP-FEW* MUCOUS-RARE* NSQ EPI-1
___ 01:20AM URINE  RBC-1 WBC-32* BACTERIA-NONE YEAST-NONE 
EPI-<1 
___ 01:20AM URINE  BLOOD-TR* NITRITE-NEG PROTEIN-100* 
GLUCOSE-TR* KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 01:20AM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 01:20AM URINE  OSMOLAL-311
___ 03:49AM   PLT COUNT-272
___ 03:49AM   NEUTS-85.1* LYMPHS-5.7* MONOS-8.2 EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-18.38* AbsLymp-1.22 AbsMono-1.76* 
AbsEos-0.00* AbsBaso-0.05
___ 03:49AM   WBC-21.6* RBC-4.37* HGB-12.5* HCT-38.0* 
MCV-87 MCH-28.6 MCHC-32.9 RDW-13.0 RDWSD-41.3
___ 03:49AM   ALBUMIN-3.8
___ 03:49AM   cTropnT-<0.01
___ 03:49AM   LIPASE-19
___ 03:49AM   ALT(SGPT)-18 AST(SGOT)-27 ALK PHOS-97 TOT 
BILI-1.1
___ 03:49AM   GLUCOSE-115* UREA N-36* CREAT-2.8*# 
SODIUM-134* POTASSIUM-4.5 CHLORIDE-93* TOTAL CO2-24 ANION GAP-17
___ 03:54AM   LACTATE-1.0
___ 08:13AM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 03:44PM   CALCIUM-8.5 PHOSPHATE-2.4* MAGNESIUM-2.3
___ 03:44PM   cTropnT-<0.01
___ 03:44PM   GLUCOSE-110* UREA N-28* CREAT-1.5*# 
SODIUM-142 POTASSIUM-4.1 CHLORIDE-104 TOTAL CO2-28 ANION GAP-10

IMAGING:
CXR ___-
 
1. Right middle lobe pneumonia. 
2. Approximately 5 mm nodular density projecting over the left 
lung is 
indeterminate.  Follow-up chest radiograph approximately 4 weeks 
after 
resolution of the pneumonia is recommended. 

 CT ABD & PELVIS W/O CONTRAST Study Date of ___  
1. No urinary stones or other acute process identified in the 
abdomen or 
pelvis. 
2. Right middle lobe pneumonia is again seen. 

DISCHARGE LABS:
___ 08:55AM BLOOD WBC-11.5* RBC-4.33* Hgb-12.7* Hct-38.4* 
MCV-89 MCH-29.3 MCHC-33.1 RDW-13.1 RDWSD-42.9 Plt ___
___ 08:55AM BLOOD Neuts-75.3* Lymphs-15.7* Monos-7.8 
Eos-0.4* Baso-0.3 Im ___ AbsNeut-8.65* AbsLymp-1.80 
AbsMono-0.89* AbsEos-0.05 AbsBaso-0.03
___ 08:55AM BLOOD Glucose-100 UreaN-14 Creat-1.0 Na-142 
K-4.1 Cl-100 HCO3-29 AnGap-13
___ 08:55AM BLOOD Calcium-8.8 Phos-2.5* Mg-2.1
___ 03:54AM BLOOD Lactate-1.___ yo man w/ no significant PMH presenting with 5 days of thick 
yellow sputum production, dyspnea and R side pain in the setting 
of fever and cough found to have right middle lobe PNA on CXR 
and CT. 

# Dyspnea
# Right side chest wall pain
# Community acquired pneumonia-
He presented w/ thick sputum production, cough, and fevers at 
home, and was found to have a right middle lobe pneumonia on CXR 
and CT scan. No fevers while inpatient, but WBC initially quite 
elevated to 21.6 with a neutrophil predominance, down to 11.5 on 
discharge. Flu A and B negative. His right side pain is likely 
secondary to inflammation from the right middle lobe pneumonia, 
or in the setting of intercostal muscle injury in the setting of 
coughing. He is not having any pleuritic chest pain. Two sets of 
troponins were undetectable. Patient was ambulating well on the 
day of discharge. He was initially treated with ceftriaxone and 
azithromycin (day 1 was ___. He will complete a total 
5 day course of antibiotics and will transition to levofloxacin 
750 mg daily from ___ - ___.

# ___: Initial Cr 2.8 with no known hx CKD. This was likely 
pre-renal due to poor PO intake x 3 days. This rapidly improved 
to Cr ___ s/p 2L IVF. There was some initial concern for UTI vs 
pyelonephritis given unclear hx right flank pain, and WBCs on UA 
but CT abd/pelvis was unremarkable for this. UA without 
leuks/nitrites. Creatinine on discharge had normalized to 1.0. 
Urine culture with no growth to date.

# Normocytic anemia: Unclear etiology and most recent CBC from 
___ had normal Hgb. There's no evidence of bleed with the 
exception of 1 RBC on UA. Iron studies and B12 added on for 
outpatient follow up. Colonoscopy from ___ showed 
diverticulosis of mild severity of the sigmoid and ascending 
colon but otherwise normal colonoscopy to cecum w/ recommended 
___ year follow up. 

# Hyponatremia: Likely due to poor PO intake. Resolved quickly 
after 2L IVF w/ Na 142 on discharge. 

TRANSITIONAL ISSUES:
=====================
[] Abnormal UA- follow up mild hematuria and pyuria with repeat 
UA as outpatient after acute illness resolved
[] Normocytic anemia- Iron studies and B12 were added on at the 
time of discharge. Please follow-up on these and evaluate for 
possible contribution of these to his anemia. Notably Hgb normal 
in ___. ___ ___ w/ diverticulosis only.
[] Pt to complete a total 5 day course of Abx with levofloxacin 
end date ___. 
[] urine and blood cultures pending at the time of discharge, 
please f/u on these are next outpatient appointment 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Levofloxacin 750 mg PO DAILY Duration: 3 Days 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once a day Disp #*3 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Community acquired pneumonia
Acute kidney injury
Anemia
Hyponatremia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
 Dear Mr. ___,
  
 It was a pleasure caring for you at ___.  
 WHY WAS I IN THE HOSPITAL?  
 -You were coughing a lot and producing sputum. You were having 
right side pain. 
  
 WHAT HAPPENED TO ME IN THE HOSPITAL?  
 -You were diagnosed with a pneumonia and treated with 
antibiotics.
 
 WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
 - Continue to take all your medicines and keep your 
appointments. Take your first dose of levofloxacin ___ and 
continue to take it daily until ___.
 - Drink a lot of fluids to stay hydrated so that your kidneys 
do not get injured.  

 We wish you the best!  

 Sincerely,  
 Your ___ Team  

 
Followup Instructions:
___